US08207373B2
Stage 1: (4-bromo-phenyl)-(2-nitro-phenyl)-amine
The product (6.49 g) is obtained according to the method of stage 1 of Example 4, by using 3.73 mL of 2-fluoro-nitrobenzene and 7.31 g of 4-bromoaniline in the presence of 6.36 g of potassium tert-butanolate in 120 mL of DMSO.

reactant | 2-fluoro-nitrobenzene | 3.73 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-bromoaniline | 7.31 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | potassium tert-butanolate | 6.36 g | C(C)(C)(C)[O-].[K+]
solvent | DMSO | 120 mL | CS(=O)C | C2H6OS
product | (4-bromo-phenyl)-(2-nitro-phenyl)-amine | BrC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H9BrN2O2
